US08017611B2
Over a period of 5 minutes, a solution of 1-(1-acetylpiperidin-4-yl)-4-(6-amino-5-(1,3-benzoxazol-2-yl)pyridin-3-yl)-1H-pyrazole-3-carbaldehyde (132 mg) in MeOH/dichloromethane (1:1) that had been cooled to 0° C., was added to a stirred solution of methylamine (0.153 ml, 0.31 mmol) dissolved in dichloromethane (6 ml) and methanol (6 ml). The resulting solution was stirred at 0° C. for 20 minutes. Sodium triacetoxyhydroborate (78 mg) was added at 0° C. to the mixture and stirred at 0° C. for 5 hours. The mixture was evaporated. A saturated solution of sodium bicarbonate was added and the mixture was extracted with methylene chloride, dried over magnesium sulphate, filtered and evaporated under reduced pression. The reaction mixture was purified by preparative HPLC using a Waters X-Bridge reverse-phase column (5 micron silica, 19 mm diameter, 100 mm length) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions were evaporated to dryness, tritured with hot acetonitrile, filtered and dried under reduce pressure to afford 1-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methylaminomethyl)pyrazol-1-yl]-1-piperidyl]ethanone (23 mg) as a solid. NMR Spectrum: (CDCl3) 1.86-2.11 (m, 2H), 2.15 (s, 3H), 2.13-2.24 (m, 1H), 2.24-2.33 (m, 1H), 2.60 (s, 3H), 2.73-2.84 (m, 1H), 3.21-3.32 (m, 1H), 3.96 (s, 2H), 3.97-4.06 (m, 1H), 4.31-4.42 (m, 1H), 4.70-4.85 (m, 1H), 6.97 (bs, 2H), 7.32-7.41 (m, 2H), 7.54 (s, 1H), 7.57 (dd, 1H), 7.73 (dd, 1H), 8.32 (s, 1H), 8.42 (s, 1H); Mass spectrum: M+H+ 446;

reactant | 1-(1-acetylpiperidin-4-yl)-4-(6-amino-5-(1,3-benzoxazol-2-yl)pyridin-3-yl)-1H-pyrazole-3-carbaldehyde | 132 mg | C(C)(=O)N1CCC(CC1)N1N=C(C(=C1)C=1C=NC(=C(C1)C=1OC2=C(N1)C=CC=C2)N)C=O | C23H22N6O3
reactant | methylamine | 0.31 mmol, 0.153 ml | CN | CH5N
reactant | Sodium | [Na] | Na
solvent | MeOH dichloromethane | CO.ClCCl
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | methanol | 6 ml | CO | CH4O
product | 1-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methylaminomethyl)pyrazol-1-yl]-1-piperidyl]ethanone | 23 mg | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)C(C)=O)CNC)C=1OC2=C(N1)C=CC=C2 | C24H27N7O2
